US07446225B2
c) Methyl 5-methanesulfonyl-4-(4-nitro-3-pentafluorosulfanylphenoxy)-2-methyl-benzoate
3.50 g of methyl 5-methanesulfonyl-2-methyl-4-(3-pentafluorosulfanylphenoxy)-benzoate were dissolved in 100 ml of 90% HNO3 at −40° C. The reaction mixture was stirred at this temperature for 10 minutes and then poured into 800 g of ice. This mixture was stirred for 10 minutes and then the product was filtered off with suction. 3.89 g of a pale yellow solid were obtained, mp 145-148° C. (with decomposition). Rf (DIP)=0.09

reactant | methyl 5-methanesulfonyl-2-methyl-4-(3-pentafluorosulfanylphenoxy)-benzoate | 3.50 g | CS(=O)(=O)C=1C(=CC(=C(C(=O)OC)C1)C)OC1=CC(=CC=C1)S(F)(F)(F)(F)F | C16H15F5O5S2
reactant | HNO3 | 100 ml | [N+](=O)(O)[O-] | HNO3
product | Methyl 5-methanesulfonyl-4-(4-nitro-3-pentafluorosulfanylphenoxy)-2-methyl-benzoate | 3.89 g | CS(=O)(=O)C=1C(=CC(=C(C(=O)OC)C1)C)OC1=CC(=C(C=C1)[N+](=O)[O-])S(F)(F)(F)(F)F | C16H14F5NO7S2
